US07091353B2
A stirred mixture of 3-(4-amino-1-oxoisoindolin-2-yl)piperidine-2,6-dione (518 mg, 2.0 mmol) and benzaldehyde (0.21 ml, 2.0 mmol) in methanol (20 ml) was heated to reflux for 5 h. The solvent was removed in vacuo to give a solid. The solid was re-dissolved in acetic acid (20 ml). The stirred solution was heated to reflux for 1 h, and was then allowed to cool to room temperature. To the stirred solution was added sodium borohydride (90 mg, 2.3 mmol) and stirring continued at room temperature for 18 h. The resulting suspension was filtered and washed with acetic acid (10 ml) and ether (20 ml) to give 3-{1-oxo-4-[benzylamino]isoindolin-2-yl}piperidine-2,6-dione as an off-white solid (420 mg, 60% yield): mp, 257–259° C.; 1H NMR (DMSO-d6) δ 2.01–2.07 (m, 1H, CHH), 2.23–2.30 (m, 1H, CHH), 2.49–2.65 (m, 1H, CHH), 2.85–3.00 (m, 1H, CHH), 4.19 (d, J=17 Hz, 1H, CHH), 4.31 (d, J=17 Hz, 1H, CHH), 4.39 (d, J=5.7 Hz, 2H, CH2), 5.12 (dd, J=5.1, 13 Hz, 1H, NCH), 6.37 (t, J=5.9 Hz, 1H, NH), 6.62 (d, J=8.0 Hz, 1H, Ar), 6.91 (d, J=7.3 Hz, 1H, Ar), 7.19–7.40 (m, 6H, Ar), 11.02 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.79, 31.25, 45.79, 46.09, 51.56, 110.32, 112.34, 126.72, 127.05, 128.32, 129.07, 132.08, 139.72, 143.33, 168.82, 171.22, 172.90; Anal Calcd for C20H19N3O3: C, 68.75; H, 5.48; N, 12.03. Found C, 68.73; H, 5.41; N, 12.04.

reactant | 3-(4-amino-1-oxoisoindolin-2-yl)piperidine-2,6-dione | 2.0 mmol, 518 mg | NC1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O | C13H13N3O3
reactant | benzaldehyde | 2.0 mmol, 0.21 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 2.3 mmol, 90 mg | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-{1-oxo-4-[benzylamino]isoindolin-2-yl}piperidine-2,6-dione | 420 mg, 60% yield | O=C1N(CC2=C(C=CC=C12)NCC1=CC=CC=C1)C1C(NC(CC1)=O)=O | C20H19N3O3
